US09403833B2
Step 3: 4-Chloro-2-cyclopropylaniline
A suspension of N-(4-chloro-2-cyclopropylphenyl)acetamide (689 mg, 3.29 mmol) in 2M HCl (aq) (25 ml, 823 mmol) was stirred at 100° C. for 3 hrs and then 90° C. for 16 hrs. The resulting mixture was cooled to RT, diluted with EtOAc and water and the layers separated. The organic layer was extracted with 0.1 M HCl (aq) and the organic portion was discarded. To the combined aqueous portions was added 2M NaOH (aq) until basic and resulting mixture was extracted with EtOAc (2×). The organic extracts were washed with brine, dried over MgSO4, filtered and concentrated under vacuum to give the title compound as a dark yellow oil.

reactant | N-(4-chloro-2-cyclopropylphenyl)acetamide | 3.29 mmol, 689 mg | ClC1=CC(=C(C=C1)NC(C)=O)C1CC1 | C11H12ClNO
reactant | HCl | 823 mmol, 2M, 25 ml | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-Chloro-2-cyclopropylaniline | ClC1=CC(=C(N)C=C1)C1CC1 | C9H10ClN
